US08242175B2
A mixture of (E)-3-(4-{(E)-3-[4-(4-isobutyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid as potassium salt (450 mg, 1 mmol), NH2OTHP (117 mg, 1 mmol), EDC (230 mg, 1.2 mmol), HOBT (160 mg, 1.2 mmol) and TEA (0.420 ml, 3 mmol) in THF (5 ml) and DMF (5 ml) was stirred for 24 hours at room temperature. The mixture was then diluted with water and extracted with AcOEt. The organic phase was washed with water, then with a saturated NaCl solution, dried over Na2SO4 and evaporated in vacuo to dryness. The crude product was purified by flash chromatography (DCM:MeOH:NH3 98:2:0.2). The product was then dissolved in DCM and a few drops of HCl in ether were added. The mixture was stirred for 12 hours at room temperature. The precipitate was then filtered and ground in acetonitrile to obtain 300 mg of (E)-N-hydroxy-3-(4-{(E)-3-[4-(4-isobutyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylamide hydrochloride.

reactant | (E)-3-(4-{(E)-3-[4-(4-isobutyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid | C(C(C)C)N1CCN(CC1)C1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O | C26H30N2O3
reactant | potassium | 1 mmol, 450 mg | [K] | K
reactant | NH2OTHP | 1 mmol, 117 mg | NOC1OCCCC1 | C5H11NO2
reactant | EDC | 1.2 mmol, 230 mg
reactant | HOBT | 1.2 mmol, 160 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-N-hydroxy-3-(4-{(E)-3-[4-(4-isobutyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylamide hydrochloride | 300 mg | Cl.ONC(\C=C\C1=CC=C(C=C1)\C=C\C(=O)C1=CC=C(C=C1)N1CCN(CC1)CC(C)C)=O | InChI=1S/C26H31N3O3.ClH/c1-20(2)19-28-15-17-29(18-16-28)24-11-9-23(10-12-24)25(30)13-7-21-3-5-22(6-4-21)8-14-26(31)27-32;/h3-14,20,32H,15-19H2,1-2H3,(H,27,31);1H/b13-7+,14-8+;
